US09376454B2
Step 6. Synthesis of 2-(6-(tert-butoxycarbonyl(2-(tert-butoxycarbonylamino)ethyl)amino)pyridin-3-yl)acetic acid
To 2-(tert-butoxycarbonyl(2-(tert-butoxycarbonylamino)ethyl)amino)-5-(carboxymethyl)pyridine 1-oxide (0.78 g) in a mixture of THF (10 mL) and sat. NH4Cl (10 mL) was added Zinc dust (0.65 g). The reaction mixture was stirred at room temperature for overnight. EtOAc was then added and washed with water. The organic phase was dried and concentrated to afford the desired product (0.5 g).

reactant | 2-(tert-butoxycarbonyl(2-(tert-butoxycarbonylamino)ethyl)amino)-5-(carboxymethyl)pyridine 1-oxide | 0.78 g | C(C)(C)(C)OC(=O)N(C1=[N+](C=C(C=C1)CC(=O)O)[O-])CCNC(=O)OC(C)(C)C | C19H29N3O7
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | Zinc | 0.65 g | [Zn] | Zn
product | 2-(6-(tert-butoxycarbonyl(2-(tert-butoxycarbonylamino)ethyl)amino)pyridin-3-yl)acetic acid | 0.5 g | C(C)(C)(C)OC(=O)N(C1=CC=C(C=N1)CC(=O)O)CCNC(=O)OC(C)(C)C | C19H29N3O6
